US06887896B1
(2E)-3-(4-Bromo-8-sec-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-en-1-ol (Compound A-143)
As described in General Procedure G-1, (2E)-3-(4-bromo-8-sec-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-enoic acid ethyl ester (Compound A-132, 567 mg, 1.18 mmol) and diisobutylaluminum hydride (1M in methylene chloride, 2.84 mL, 2.84 mmol) were reacted to give the title compound as a colorless oil aft er purification by flash chromatography (silica gel, 10% to 15% ethyl acetate in hexanes).

reactant | (2E)-3-(4-bromo-8-sec-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydronaphthalen-2-yl)-2-fluoro-pent-2-enoic acid ethyl ester | 1.18 mmol, 567 mg | C(C)OC(/C(=C(/CC)\C1=CC=2C(=CCC(C2C(=C1OCC)Br)(C)C)C(C)CC)/F)=O | C25H34BrFO3
reactant | diisobutylaluminum hydride | 2.84 mmol, 1M, 2.84 mL | [H-].C(C(C)C)[Al+]CC(C)C
product | (2E)-3-(4-Bromo-8-sec-butyl-3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-pent-2-en-1-ol | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)CC)/C(=C(\CO)/F)/CC)OCC | C23H32BrFO2
